US08530460B2
1-(4-Hydroxyphenyl)propane-2-amine
A mixture of 7.00 g (46.6 mmol) 4-hydroxyphenylacetone and 200 mL 7N ammonia in MeOH is charged with 0.70 g Raney nickel. The mixture is stirred in an hydrogen atmosphere (50 psi) at r.t. over night. After complete reaction, the mixture is filtrated, the solvent is removed in vacuo and the crude product is purified by HPLC (MeOH/H2O/NH3).

reactant | 4-hydroxyphenylacetone | 46.6 mmol, 7.00 g | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | ammonia | 7N, 200 mL | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | MeOH | CO | CH4O
catalyst | Raney nickel | 0.70 g | [Ni] | Ni
product | 1-(4-Hydroxyphenyl)propane-2-amine | OC1=CC=C(C=C1)CC(C)N | C9H13NO
